US07943612B2
A solution of phenylacetylene (0.20 g, 1.98 mmol), {4-[3-(3,5-dibromo-phenyl)-prop-2-ynyloxy]-phenoxy}-acetic acid methyl ester (0.3 g, 0.66 mmol), Pd(PPh3)4 (0.11 g, 0.1 mmol) and CuI (0.05 g, 0.26 mmol) in triethylamine (10 ml) was heated in a sealed tube in a microwave own at 65° C. for 1 hour. The reaction mixture was filtered and the filtrate was evaporated. The residue was purified on HPLC using acetonitril/water as eluent to give {4-[3-(3,5-bis-phenylethynyl-phenyl)-prop-2-ynyloxy]-phenoxy}-acetic acid methyl ester in 150 mg (46%) yield.

reactant | phenylacetylene | 1.98 mmol, 0.20 g | C1(=CC=CC=C1)C#C | C8H6
reactant | {4-[3-(3,5-dibromo-phenyl)-prop-2-ynyloxy]-phenoxy}-acetic acid methyl ester | 0.66 mmol, 0.3 g | COC(COC1=CC=C(C=C1)OCC#CC1=CC(=CC(=C1)Br)Br)=O | C18H14Br2O4
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)4 | 0.1 mmol, 0.11 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.26 mmol, 0.05 g | [Cu]I
product | {4-[3-(3,5-bis-phenylethynyl-phenyl)-prop-2-ynyloxy]-phenoxy}-acetic acid methyl ester | COC(COC1=CC=C(C=C1)OCC#CC1=CC(=CC(=C1)C#CC1=CC=CC=C1)C#CC1=CC=CC=C1)=O | C34H24O4
